US07741327B2
To a solution containing (S)-3-cyclopentyl-2-(4-methoxy-2-oxo-2,5-dihydro-pyrrol-1-yl)-propionic acid methyl ester (1.42 g, 5.20 mmol) in tetrahydrofuran (10 mL) was treated with an aqueous solution of lithium hydroxide monohydrate (273 mg, 6.4 mmol) in water (10 mL). The mixture was stirred at 25° C. for 2.5 h, it was then acidified with 2N aqueous hydrochloric acid. The mixture was extracted with dichloromethane (2×30 mL). The combined organic layers was dried over magnesium sulfate and concentrated to afford (S)-3-cyclopentyl-2-(4-methoxy-2-oxo-2,5-dihydro-pyrrol-1-yl)-propionic acid, (855 mg, 65%), as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.08 (m, 2H), 1.36-1.88 (m, 9H), 3.78 (s, 3H), 3.95 (J=17.7 Hz, 2H), 4.54 (dd, J=4.5 Hz, 11.0 Hz, 1H), 5.16 (s 1H), 12.80 (s, 1H).

reactant | (S)-3-cyclopentyl-2-(4-methoxy-2-oxo-2,5-dihydro-pyrrol-1-yl)-propionic acid methyl ester | 5.20 mmol, 1.42 g | COC([C@H](CC1CCCC1)N1C(C=C(C1)OC)=O)=O | C14H21NO4
reactant | lithium hydroxide monohydrate | 6.4 mmol, 273 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (S)-3-cyclopentyl-2-(4-methoxy-2-oxo-2,5-dihydro-pyrrol-1-yl)-propionic acid | 855 mg, 65% | C1(CCCC1)C[C@@H](C(=O)O)N1C(C=C(C1)OC)=O | C13H19NO4
